US07858643B2
4-(4-{6-Amino-5-[1-(2,6-dichloro-3-ethoxy-phenyl)-ethoxy]-pyridin-3-yl}-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester:
To 4 mL of DMSO was added 0.124 ml ethanol followed by 32 mg NaH. After stirring for 30 minutes 250 mg of 250 mg 4-(4-{6-Amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester was added and the reaction was heated to 40° C. After three hours the reaction was cooled and poured into water to precipitate. After neutralization to pH 6, 200 mg of a tan solid was isolated, 77%.

reactant | DMSO | 4 mL | CS(=O)C | C2H6OS
reactant | ethanol | 0.124 ml | C(C)O | C2H6O
reactant | NaH | 32 mg | [H-].[Na+]
reactant | 4-(4-{6-Amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester | 250 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C=1C=NC(=C(C1)OC(C)C1=C(C(=CC=C1Cl)F)Cl)N)=O | C29H31Cl2FN4O4
solvent | water | O | H2O
product | 4-(4-{6-Amino-5-[1-(2,6-dichloro-3-ethoxy-phenyl)-ethoxy]-pyridin-3-yl}-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester | 200 mg, pH 6 | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C=1C=NC(=C(C1)OC(C)C1=C(C(=CC=C1Cl)OCC)Cl)N)=O | C31H36Cl2N4O5
